US07622466B2
a) 5-(3-Chloro-propoxy)-1H-pyrrolo[2,3-b]pyridine-2-carboxylic Acid Ethyl Ester
The suspension consistent of 0.5 g (2.4 mmol) 5-hydroxy-pyrrolo[2,3-b]pyridine-1,2-dicarboxylic acid 1-tert-butyl ester 2-ethyl ester (as prepared in WO 05/000849), 0.4 g (2.6 mmol) potassium carbonate and 0.29 ml (0.46 g, 2.9 mmol) 1-bromo-3-chloropropane in 10 ml 2-butanone was heated under reflux for 23 hours. The reaction mixture was poured on 10% aqueous ammonium chloride solution and was extracted three times with ethyl acetate. The combined organic layers were washed with brine, dried over magnesium sulfate, filtered and evaporated. The residue was flash-chromatographed on silica gel with n-heptane:ethyl acetate (1:1 v/v) as eluant to give 0.22 g (32%) of the desired compound as a colorless solid.

reactant | 5-hydroxy-pyrrolo[2,3-b]pyridine-1,2-dicarboxylic acid 1-tert-butyl ester 2-ethyl ester | 2.4 mmol, 0.5 g | CCOC(=O)C1=CC=2C(=NC=C(C2)O)N1C(=O)OC(C)(C)C | C15H18N2O5
reactant | potassium carbonate | 2.6 mmol, 0.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-3-chloropropane | 2.9 mmol, 0.29 ml, 0.46 g | BrCCCCl | C3H6BrCl
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | 2-butanone | 10 ml | CC(CC)=O | C4H8O
product | 5-(3-Chloro-propoxy)-1H-pyrrolo[2,3-b]pyridine-2-carboxylic Acid Ethyl Ester | 0.22 g, 32% | C(C)OC(=O)C1=CC=2C(=NC=C(C2)OCCCCl)N1 | C13H15ClN2O3
